US06046232
Synthesis of α-(2-Ethoxyphenyl)-N-tert-butylnitrone
2-Ethoxybenzaldehyde (12.0 g, 79.90 mmol) and N-tert-butylhydroxylamine (10.69 g, 119.86 mmol) were mixed in chloroform with molecular sieves (50 g, 4A) and silica gel (10 g). The mixture was sealed under argon gas and stirred for 70 h at room temperature. The mixture was then filtered and the solid washed with ethyl acetate and the combined solution was rotary evaporated. Pentane (50 mL) was added to the liquid residue and isolation of the resulting solid afforded 13.79 g (78.0% yield) of the title compound as white crystals, m.p. 58.3° C. (Rf=0.55 on a silica gel plate using ethyl acetate as the eluant).

reactant | 2-Ethoxybenzaldehyde | 79.90 mmol, 12.0 g | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
reactant | N-tert-butylhydroxylamine | 119.86 mmol, 10.69 g | C(C)(C)(C)NO | C4H11NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | α-(2-Ethoxyphenyl)-N-tert-butylnitrone | 13.79 g, 78.0% yield | C(C)OC1=C(C=CC=C1)C=[N+]([O-])C(C)(C)C | C13H19NO2
